US04590188
A mixture of 5.05 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 20 ml of acetic anhydride and 0.1 ml of pyridine is stirred at 110° C. for 4 hours. After the reaction is completed, the mixture is evaporated under reduced pressure to remove acetic anhydride, acetic acid and pyridine. Benzene is added to the residue, and the mixture is evaporated under reduced pressure to remove solvent. The residue thus obtained is converted into its hydrobromide and recrystallized from a mixture of ethanol and ether. 6.374 g of (+)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(dimethylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrobromide are obtained. Yield: 96%

reactant | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 5.05 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC(=C2)C | C21H26N2O3S
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrobromide | Br | BrH
solvent | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
product | (+)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(dimethylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrobromide | 6.374 g, Yield: 96% | Br.COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCN(C)C)C=CC(=C2)C | InChI=1S/C23H28N2O4S.BrH/c1-15-6-11-19-20(14-15)30-22(17-7-9-18(28-5)10-8-17)21(29-16(2)26)23(27)25(19)13-12-24(3)4;/h6-11,14,21-22H,12-13H2,1-5H3;1H/t21-,22+;/m1./s1
